US06992083B2
N-[7-(4-Fluoro-phenyl)-4-methoxy-benzooxazol-2-yl]-2-morpholin-4-yl-isonicotinamide
From 2-bromo-N-[7-(4-fluoro-phenyl)-4-methoxy-benzooxazol-2-yl]-isonicotinamide with cesium carbonate and morpholine in NMP. ES-MS m/e (%): 449 (M+H+, 100).

reactant | 2-bromo-N-[7-(4-fluoro-phenyl)-4-methoxy-benzooxazol-2-yl]-isonicotinamide | BrC=1C=C(C(=O)NC=2OC3=C(N2)C(=CC=C3C3=CC=C(C=C3)F)OC)C=CN1 | C20H13BrFN3O3
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | NMP | CN1CCCC1=O | C5H9NO
product | N-[7-(4-Fluoro-phenyl)-4-methoxy-benzooxazol-2-yl]-2-morpholin-4-yl-isonicotinamide | FC1=CC=C(C=C1)C1=CC=C(C=2N=C(OC21)NC(C2=CC(=NC=C2)N2CCOCC2)=O)OC | C24H21FN4O4
